US05700809
1-(4-Hydroxy-4-[4-methoxyphenyl]piperidin-1-yl )ethanone (14.75 g, 59 mmol) was dissolved in hydrochloric acid (250 mg, 6M) and refluxed for 12 hours. The reaction mixture was cooled in ice and basified with sodium hydroxide solution (155 ml, 10M), then extracted with dichloromethane (2×500 ml). The extractions were combined, dried (MgSO4), and concentrated in vacuo. The crude product was purified by flash chromatography eluting with 10% methanol in dichloromethane, containing 1% aqueous ammonia. Concentration of the appropriate fractions gave 4-(4-methoxyphenyl)-1,2,3,6-tetrahydropyridine (2.65 g, 24%) as a tan solid; δH (DMSO-d6) 2.3 (2H, m, tetrahydropyridinyl CH2), 2.9 (2H, t, J 5.6 Hz, tetrahydropyridinyl CH2), 3.4 (2H, d, J 3.4 Hz, tetrahydropyridinyl CH2), 3.7 (3H, s, ArOCH3), 6.1 (1H, m, CH=CR), 6.9 (2H, d, J 9.6 Hz, ArH), 7.3 (2H, d, J 9.6 Hz, ArH), and 9.6 (1H, br s, NH).

reactant | 1-(4-Hydroxy-4-[4-methoxyphenyl]piperidin-1-yl )ethanone | 59 mmol, 14.75 g | OC1(CCN(CC1)C(C)=O)C1=CC=C(C=C1)OC | C14H19NO3
reactant | sodium hydroxide | 10M, 155 ml | [OH-].[Na+]
solvent | hydrochloric acid | 6M, 250 mg | Cl | ClH
product | 4-(4-methoxyphenyl)-1,2,3,6-tetrahydropyridine | 2.65 g, 24% | COC1=CC=C(C=C1)C=1CCNCC1 | C12H15NO
